US08580762B2
Stage 6: (1R,2S,3R,5R)-3-{4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-5-{[({3-[(5-tert-butyl-1H-1,3-benzodiazol-2-yl)methyl]cyclobutyl}methyl)(propan-2-yl)amino]methyl}cyclopentane-1,2-diol
7-[(3aS,4R,6R,6aR)-6-{[({3-[(5-tert-butyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl)methyl]cyclobutyl}methyl)(propan-2-yl)amino]methyl}-2,2-dimethyl-hexahydrocyclopenta[d][1,3]dioxol-4-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine (58.7 mg, 0.08 mmol) was dissolved in cone. HCl solution (5 ml) and methanol (5 ml) and heated to 40° C. for 2 h. The reaction mixture was concentrated under reduced pressure, and the residue partitioned between sat. NaHCO3(aq) (10 ml) and EtOAc (10 ml). The layers were separated and the aqueous layer was extracted with EtOAc (2×10 ml), the combined organics were then dried (MgSO4) and concentrated. The crude material was purified by prep TLC, eluting with 10% 2M NH3 in MeOH in DCM to afford the title compound (24.7 mg, 55%) as a colourless gum: MS (ESI+) for C32H45N7O2 m/z 560.4 [M+H]+; LC purity 100% (UV), (ret. time, 5.10 min); 1H NMR (500 MHz, Acetone) δH 8.12 (s, 1 H), 7.30-7.60 (m, 2 H), 7.13-7.28 (m, 2 H), 6.54 (d, J=3.5 Hz, 1 H), 6.33 (br. s., 1 H), 4.85-5.07 (m, 1 H), 4.36 (t, J=6.2 Hz, 1 H), 4.08 (t, J=5.2 Hz, 1 H), 3.01 (d, J=7.7 Hz, 1 H), 2.93 (d, J=7.4 Hz, 2 H), 2.78 (br. s., 2 H), 2.59-2.73 (m, 2 H), 2.15-2.56 (m, 7 H), 1.68 (dt, J=12.4, 9.7 Hz, 1 H), 1.44-1.62 (m, 2 H), 1.35 (s, 9 H), 0.90-1.07 (m, 6 H).

reactant | 7-[(3aS,4R,6R,6aR)-6-{[({3-[(5-tert-butyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl)methyl]cyclobutyl}methyl)(propan-2-yl)amino]methyl}-2,2-dimethyl-hexahydrocyclopenta[d][1,3]dioxol-4-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.08 mmol, 58.7 mg | C(C)(C)(C)C1=CC2=C(N(C(=N2)CC2CC(C2)CN(C(C)C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2N)COCC[Si](C)(C)C)C=C1 | C41H63N7O3Si
reactant | HCl | 5 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | (1R,2S,3R,5R)-3-{4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-5-{[({3-[(5-tert-butyl-1H-1,3-benzodiazol-2-yl)methyl]cyclobutyl}methyl)(propan-2-yl)amino]methyl}cyclopentane-1,2-diol | 24.7 mg, 55% | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C(C)C)CC2CC(C2)CC2=NC1=C(N2)C=CC(=C1)C(C)(C)C)O)O | C32H45N7O2
